US09371320B2
D) 7-methoxy-3-(2-methylphenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile
To a solution of 3-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile (1.30 g) in toluene (17 mL) were added 2-dicyclohexyl phosphino-2′,4′,6′-triisopropylbiphenyl (0.486 g), tris(dibenzylideneacetone)dipalladium(0) (0.311 g), (2-methylphenyl)boronic acid (0.693 g) and 2M aqueous sodium carbonate solution (5.10 mL) at room temperature, and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane). The obtained fraction was treated with activated carbon, and concentrated under reduced pressure to give the title compound (1.20 g).

reactant | 3-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 1.30 g | BrC1=CN(C=2C(=NC=C(C21)C#N)OC)COCC[Si](C)(C)C | C15H20BrN3O2Si
reactant | (2-methylphenyl)boronic acid | 0.693 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 2M, 5.10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.311 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-methoxy-3-(2-methylphenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 1.20 g | COC1=NC=C(C2=C1N(C=C2C2=C(C=CC=C2)C)COCC[Si](C)(C)C)C#N | C22H27N3O2Si
